US08022062B2
5-Aminomethyl-2-(3,3-dimethyl-butyryl)-pyridine:
Add 4N hydrogen chloride in dioxane (1 mL) to a solution of 5-tert-butoxycarbonylaminomethyl-2-(3,3-dimethyl-butyryl)-pyridine (104 mg, 0.339 mmol) in anhydrous dichloromethane (4 mL) and stir the solution overnight. Concentrate in vacuo and partition the residue between saturated aqueous NaHCO3 and dichloromethane. Extract the aqueous phase with dichloromethane (2×15 mL) and EtOAc (2×15 mL). Dry the combined organic extracts over Na2SO4, filter and concentrate in vacuo to obtain the title compound as an oil (62 mg, 88%) that was used without any further purification. MS (ES+) m/z: 207 (M+H)+.

reactant | hydrogen chloride | 4N | Cl | ClH
reactant | 5-tert-butoxycarbonylaminomethyl-2-(3,3-dimethyl-butyryl)-pyridine | 0.339 mmol, 104 mg | C(C)(C)(C)OC(=O)NCC=1C=CC(=NC1)C(CC(C)(C)C)=O | C17H26N2O3
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | 5-Aminomethyl-2-(3,3-dimethyl-butyryl)-pyridine | 62 mg, 88% | NCC=1C=CC(=NC1)C(CC(C)(C)C)=O | C12H18N2O
